US09290451B2
d) 5-Cyclopropyl-6-(2-methoxyethoxy)-pyridine-2-carboxylic acid
A solution of 5-cyclopropyl-6-(2-methoxyethoxy)-pyridine-2-carboxylic acid methyl ester (0.16 g, 0.6 mmol) and sodium hydroxide (31 mg, 0.7 mmol) in ethanol (40 mL) was heated to 90° C. for 2 h. The reaction mixture was evaporated, dissolved in water and extracted with ethyl acetate (30 mL). The pH of the aqueous layer was adjusted to 2 by addition of 1 N hydrochloric acid, the resulting precipitate was collected by filtration and dried in vacuo to give the title compound (0.11 g, 0.5 mmol; 73%) as yellow oil; MS: m/e=238.1 [M+H]+.

reactant | 5-cyclopropyl-6-(2-methoxyethoxy)-pyridine-2-carboxylic acid methyl ester | 0.6 mmol, 0.16 g | COC(=O)C1=NC(=C(C=C1)C1CC1)OCCOC | C13H17NO4
reactant | sodium hydroxide | 0.7 mmol, 31 mg | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-Cyclopropyl-6-(2-methoxyethoxy)-pyridine-2-carboxylic acid | 0.5 mmol, 0.11 g, 73% | C1(CC1)C=1C=CC(=NC1OCCOC)C(=O)O | C12H15NO4
